US03992544
1,5-Dibenzyl-4,5,6,7-tetrahydro-3-methoxymethyl-7-methyl-2-phenyl-1H-pyrrolo[3,2-c]pyridine
3-Acetoxymethyl-1,5-dibenzyl-4,5,6,7-tetrahydro-7-methyl-2-phenyl-1H-pyrrolo[3,2-c]pyridine (200 mg), prepared according to Example 16, was dissolved in methanol (10 ml) by briefly warming. On cooling, the title compound wasobtained as white needles, 125 mg. M.pt. 140°-1° C (Found: C,82.5; H, 7.5; N, 6.4. C30H32N2O requires: C, 82.5; H, 7.4; N, 6.4%).

reactant | 3-Acetoxymethyl-1,5-dibenzyl-4,5,6,7-tetrahydro-7-methyl-2-phenyl-1H-pyrrolo[3,2-c]pyridine | 200 mg | C(C)(=O)OCC1=C(N(C2=C1CN(CC2C)CC2=CC=CC=C2)CC2=CC=CC=C2)C2=CC=CC=C2 | C31H32N2O2
solvent | methanol | 10 ml | CO | CH4O
product | 1,5-Dibenzyl-4,5,6,7-tetrahydro-3-methoxymethyl-7-methyl-2-phenyl-1H-pyrrolo[3,2-c]pyridine | C(C1=CC=CC=C1)N1C(=C(C=2CN(CC(C21)C)CC2=CC=CC=C2)COC)C2=CC=CC=C2 | C30H32N2O
